US04064247
Finely powdered anhydrous sodium nitrate (85 g.) is added to a solution of (S)-3-hydroxysulphonyloxymethyl1,2,3,4-tetrahydroisoquinoline (122 g.) in trifluoroacetic acid (1,000 cc.). The reaction mixture is stirred for 5 days at a temperature of about 20° C. and is then evaporated under reduced pressure (25 mm. Hg, followed by 1 mm. Hg). The residue is washed with diethyl ether (3 × 200 cc.). The light yellow solid obtained is ground and then dried at 40° C. under reduced pressure (1 mm.Hg). The solid thus obtained is dissolved in 0.3N sodium hydroxide solution (5,000 cc.); carbon disulphide (35 cc.) is added to the solution obtained, whilst stirring, and the stirring is continued at a temperature of about 20° C. for 17 hours. The mixture is neutralised by adding 4N hydrochloric acid. The precipitate formed is filtered off, washed copiously with water and then with ethanol, dried under reduced pressure (0.1 mm. Hg) and then dissolved in boiling toluene (3,200 cc.). The insoluble matter is filtered off over Celite and the filtrate is cooled to about 10° C. The crystals which have appeared are filtered off, washed with ethanol (100 cc.), dried at 80° C. under reduced pressure (0.1 mm. Hg) and recrystallised from a mixture of acetonitrile and ethanol (1:1 by volume) (1,000 cc.). (S)-7-Nitro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline-3-thione (45 g.) melting at 182° C., is obtained.

reactant | sodium nitrate | 85 g | [N+](=O)([O-])[O-].[Na+]
reactant | (S)-3-hydroxysulphonyloxymethyl1,2,3,4-tetrahydroisoquinoline | 122 g | OS(=O)(=O)OC[C@H]1NCC2=CC=CC=C2C1 | C10H13NO4S
reactant | carbon disulphide | 35 cc | C(=S)=S | CS2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | trifluoroacetic acid | 1,000 cc | FC(C(=O)O)(F)F | C2HF3O2
solvent | sodium hydroxide | 0.3N, 5,000 cc | [OH-].[Na+]
product | (S)-7-Nitro-1,5,10,10a-tetrahydrothiazolo[3,4-b]isoquinoline-3-thione | 45 g | [N+](=O)([O-])C=1C=CC=2C[C@@H]3N(CC2C1)C(SC3)=S | C11H10N2O2S2
